US08669234B2
(2-Methyl-1-{2-[4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-3-ylcarbamoyl]-pyrrolidine-1-carbonyl}-propyl)-carbamic acid methyl ester (135 mg, 0.246 mmol), (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (110 mg, 0.246 mmol), Pd(PPh3)4 (14 mg, 0.0123 mmol) and a 2 M aqueous solution of potassium carbonate (0.246 mL, 0.492 mmol) were degassed in 1,2-dimethoxyethane (2.5 mL) for 13 min. The stirred suspension was heated to 85° C. for 3 hours then concentrated, brought up in DMF/water and purified by reverse phase preparative HPLC to provide {1-[2-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-[1,1′; 4′,1″]terphenyl-3″-ylcarbamoyl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (10 mg, 5%). (MeOH-d4, 400 MHz) 7.90 (s, 1H), 7.82-7.66 (m, 8H), 7.54-7.51 (m, 1H), 7.40-7.37 (m, 2H), 4.59 (m, 1H), 4.24 (m, 1H), 4.02-3.73 (m, 4H), 3.66 (s, 3H), 3.65 (s, 3H), 2.36-2.02 (m, 10H), 1.15-0.88 (m, 12H); MS (ESI) m/z 792 [M+H]+.

reactant | (2-Methyl-1-{2-[4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-3-ylcarbamoyl]-pyrrolidine-1-carbonyl}-propyl)-carbamic acid methyl ester | 0.246 mmol, 135 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C(NC=1C=C(C=CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)=O | C30H40BN3O6
reactant | (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.246 mmol, 110 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | potassium carbonate | 0.492 mmol, 0.246 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 2.5 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.0123 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {1-[2-(4-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-[1,1′; 4′,1″]terphenyl-3″-ylcarbamoyl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 10 mg, 5% | COC(NC(C(C)C)C(=O)N1C(CCC1)C(NC=1C=C(C=CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O)=O | C44H53N7O7
